US05866587
Preparation A: (6R)-4,5,6,7-Tetrahydrothieno[3,2-c]pyridine-6-carboxylic Acid Hydrochloride
A mixture containing 87 mmol of β-2-thienyl-D-alanine, 11 ml of formaldehyde at 40% in aqueous medium, and 88 ml of 1N hydrochloric acid is heated for 2 h 30 min at 110° C., with stirring, and then at 60° C. overnight. After evaporation, the residue is taken up in ethanol and then evaporated and the expected product is recovered in the form of a solid in diethyl ether.

reactant | β-2-thienyl-D-alanine | 87 mmol | S1C(=CC=C1)C[C@@H](N)C(=O)O | C7H9NO2S
reactant | formaldehyde | 11 ml | C=O | CH2O
reactant | hydrochloric acid | 1N, 88 ml | Cl | ClH
product | (6R)-4,5,6,7-Tetrahydrothieno[3,2-c]pyridine-6-carboxylic Acid Hydrochloride | Cl.S1C=CC=2CN[C@H](CC21)C(=O)O | InChI=1S/C8H9NO2S.ClH/c10-8(11)6-3-7-5(4-9-6)1-2-12-7;/h1-2,6,9H,3-4H2,(H,10,11);1H/t6-;/m1./s1
